US05017604
Sodium borohydride (0.02 g, 0.6 mmol) is added to a solution of 1-(2-methyl-3-nitrophenyl)ethanone (0.2 g, 1.1 mmol) in methanol (50 mL) at 0° C. The reaction mixture is stirred at room temperature for 1.5 hours, and then is diluted with water (100 mL). The aqueous mixture is stirred at room temperature an additional 5 hours followed by extraction with ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, and evaporated. Flash chromatography of the residue (silica, methylene chloride) gives 2,α-dimethyl-3-nitrobenzenemethanol (0.14 g, 77%) as an oil.

reactant | Sodium borohydride | 0.6 mmol, 0.02 g | [BH4-].[Na+]
reactant | 1-(2-methyl-3-nitrophenyl)ethanone | 1.1 mmol, 0.2 g | CC1=C(C=CC=C1[N+](=O)[O-])C(C)=O | C9H9NO3
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2,α-dimethyl-3-nitrobenzenemethanol | 0.14 g, 77% | CC1=C(C=CC=C1[N+](=O)[O-])C(O)C | C9H11NO3
